US05552427
Preparation of N-(1-methylimidazol-2-yl)benzylideneamine hydrochloride:
N-(1-methylimidazol-2-yl)benzylideneamine (0.1 g) was dissolved in diethyl ether, and 4N hydrochloric acid--ethyl acetate (0.2 ml) was added. The precipitated pale yellow powder (70.mg, 21.9%) was separated by filtration.

reactant | N-(1-methylimidazol-2-yl)benzylideneamine | 0.1 g | CN1C(=NC=C1)N=CC1=CC=CC=C1 | C11H11N3
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ethyl acetate | 0.2 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(1-methylimidazol-2-yl)benzylideneamine hydrochloride | Cl.CN1C(=NC=C1)N=CC1=CC=CC=C1 | InChI=1S/C11H11N3.ClH/c1-14-8-7-12-11(14)13-9-10-5-3-2-4-6-10;/h2-9H,1H3;1H
